US08895582B2
To a solution of (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(dimethoxyphosphoryloxy)-4,4-dimethylpentyl 6-fluoroisoquinolin-3-ylcarbamate (0.5 g, 0.79 mmol) in acetonitrile (50 mL) was added TMSI (0.848 mL, 6.23 mmol) at 0° C. After stirred at 0° C. for 30 min, the reaction was quenched with MeOH. The solvent was removed and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and water (0.1% HCOOH buffer) to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-dimethyl-5-(phosphonooxy)pentyl 6-fluoroisoquinolin-3-ylcarbamate (340 mg, 71.1%). LRMS (M+H+) m/z 615.5.

reactant | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(dimethoxyphosphoryloxy)-4,4-dimethylpentyl 6-fluoroisoquinolin-3-ylcarbamate | 0.79 mmol, 0.5 g | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CC(COP(=O)(OC)OC)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C28H34ClF2N4O7P
reactant | TMSI | 6.23 mmol, 0.848 mL | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-dimethyl-5-(phosphonooxy)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 340 mg, 71.1% | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CC(COP(=O)(O)O)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C26H30ClF2N4O7P
